US07618978B2
N-[1-((1R,2S)-2-Dibenzylamino-1-hydroxy-3-phenyl-propyl)-pent-4-enyl]-acrylamide
Add sodium carbonate (0.324 g, 3.96 mmol) and acryloyl chloride (356 mg, 3.96 mmol) to a solution of (2S,3R)-4-Amino-2-dibenzylamino-1-phenyloct-7-en-3-ol (1.5 g, 3.6 mmol) in dichloromethane. Stir the reaction overnight. Concentrate under reduced pressure. Purify on silica gel with hexane/ethyl acetate mixtures to give a mixture of two products (0.8 g, 48%).

reactant | sodium carbonate | 3.96 mmol, 0.324 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | acryloyl chloride | 3.96 mmol, 356 mg | C(C=C)(=O)Cl | C3H3ClO
reactant | (2S,3R)-4-Amino-2-dibenzylamino-1-phenyloct-7-en-3-ol | 3.6 mmol, 1.5 g | NC([C@H]([C@H](CC1=CC=CC=C1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)O)CCC=C | C28H34N2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[1-((1R,2S)-2-Dibenzylamino-1-hydroxy-3-phenyl-propyl)-pent-4-enyl]-acrylamide | C(C1=CC=CC=C1)N([C@H]([C@H](O)C(CCC=C)NC(C=C)=O)CC1=CC=CC=C1)CC1=CC=CC=C1 | C31H36N2O2
